US07429609B2
To 100 mg of 3-(3-fluorophenyl)-1-trityl-1H-pyrazolo[4,3-b]pyridine-4-oxide in toluene was acted phosphorus oxychloride in toluene in the same manner as described in Production example 28, to afford 30 mg of 3-(3-fluorophenyl)-5-chloro-1H-pyrazolo[4,3-b]pyridine described in Example 38 described below as a colorless powder, as well as 60 mg of a crude product of the title compound as a colorless powder.

reactant | 3-(3-fluorophenyl)-1-trityl-1H-pyrazolo[4,3-b]pyridine-4-oxide | 100 mg | FC=1C=C(C=CC1)C1=NN(C=2C1=[N+](C=CC2)[O-])C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C31H22FN3O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(3-fluorophenyl)-5-chloro-1H-pyrazolo[4,3-b]pyridine | 30 mg | FC=1C=C(C=CC1)C1=NNC=2C1=NC(=CC2)Cl | C12H7ClFN3
